US05744627
Palladium on carbon (0.5 g 10% [w/w]) was added to a 1L hydrogenation flaskunder a nitrogen atmosphere. The crude ethyl 4-azidomethylsalicylate was dissolved in ethanol (200 mL) and transferred to the hydrogenation flask. Concentrated aqueous hydrochloric acid (2 mL) was then added, and the flask was affixed to the Parr hydrogenator. The reaction mixture was shaken under 35 psi of hydrogen for 4 hours at room temperature. The mixture was then filtered through Celite to remove the catalyst, and the filtrate was evaporated to dryness to afford an off-white solid. Finally, this solid was crystallized from EtOH to afford 3.1 g (71% yield) of ethyl4-aminomethylsalicylate hydrochloride (m.p. 240°-241° C.).

reactant | ethyl 4-azidomethylsalicylate | N(=[N+]=[N-])CC=1C=C(C(C(=O)OCC)=CC1)O | C10H11N3O3
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl4-aminomethylsalicylate hydrochloride | 3.1 g, 71% yield | Cl.C(C)OC(C=1C(O)=CC(=CC1)CN)=O | InChI=1S/C10H13NO3.ClH/c1-2-14-10(13)8-4-3-7(6-11)5-9(8)12;/h3-5,12H,2,6,11H2,1H3;1H
